US06902720B2
A 9.78 g (45.04 mmol) sample of diethyl acetamidomalonate, and 1.08 g sodium hydride (45.04 mmol) were suspended in 100 mL of anhydrous THF, under nitrogen, and at 0°C. After stirring for 5 min., 2.5 mL of anhydrous ethanol were added slowly, and the solution returned to room temperature. A solution of 1-(bromomethyl)pyrene (12.03 g, 40.9 mmol, dissolved in 100 mL dry THF) was slowly added to the reaction mixture, and the solution brought to reflux for 18 h. The bulk of the THF was removed under reduced pressure, and the remaining yellow slurry was dissolved in 400 mL 1:1 CH2Cl2:H2O. The organic fraction was washed 3× with 100 mL H2O, and dried over anhydrous Na2SO4. Solvent was removed under reduced pressure to produce Diethyl-2-(1-pyrenylmethyl)-2-acetamidomalonate (14.70 g, 83.1%) as a light yellow powder. TLC (SiO2, 1:1 Hexane:EtOAc) Rƒ=0.57. Mp=135-140° C. 1H NMR (CDCl3), δ1.37 (t, 6H), 1.95 (s, 3H), 3.76 (s, 2H), 4.30 (q, 6H), 6.42 (s, NH), 8.00-825 (m, 9H from pyrene).

reactant | diethyl acetamidomalonate | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodium hydride | 45.04 mmol, 1.08 g | [H-].[Na+]
reactant | ethanol | 2.5 mL | C(C)O | C2H6O
reactant | 1-(bromomethyl)pyrene | 40.9 mmol, 100 mL, 12.03 g | BrCC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C17H11Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Diethyl-2-(1-pyrenylmethyl)-2-acetamidomalonate | 14.70 g, 83.1% | C(C)OC(C(C(=O)OCC)(NC(C)=O)CC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)=O | C26H25NO5
